US06258812B1
1-(4-Chloroanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride
While stirring, 6.24 g (18 mmol) 1-(4-chloroanilino)-4-(4-pyridylmethyl)phthalazine is dissolved in 180 ml methanol at about 50° C. The solution is cooled to RT and mixed slowly with 3.15 ml (38.2 mmol) conc. (about 37%) hydrochloric acid. When 100 ml ether is added dropwise to the reaction mixture, a crystalline precipitate forms. The suspension thereof is stirred for 15 min at RT. A further 80 ml is added dropwise to the suspension, which is stirred for a further 15 min at 20° C. and then for 0.5 h under ice cooling. After filtration, washing of the filter residue with ether, drying under HV (5 h, 90° C.) and equilibration (room atmosphere, 24 h, 20° C.), title compound is obtained with a water content of 8.63%; m.p. 268-270° C.; 1H NMR (DMSO-d6): Identical to Example 1 apart from high-field shift of signals by 0.03 ppm.

reactant | 1-(4-chloroanilino)-4-(4-pyridylmethyl)phthalazine | 18 mmol, 6.24 g | ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C20H15ClN4
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | methanol | 180 ml | CO | CH4O
product | 1-(4-Chloroanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride | Cl.Cl.ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | InChI=1S/C20H15ClN4.2ClH/c21-15-5-7-16(8-6-15)23-20-18-4-2-1-3-17(18)19(24-25-20)13-14-9-11-22-12-10-14;;/h1-12H,13H2,(H,23,25);2*1H
